US04861791
5-(5-Acetyl-2-furanyl)pentanol acetate (60.6 g) was hydrolyzed with 3 g of sodium methoxide in 900 ml of absolute methanol and the product isolated to give 37.3 g of 5-(5-acetyl-2-furanyl)pentanol, b.p. 132°-135° C. (0.1 mm).

reactant | 5-(5-Acetyl-2-furanyl)pentanol acetate | 60.6 g | C(C)(=O)OCCCCCC=1OC(=CC1)C(C)=O | C13H18O4
reactant | sodium methoxide | 3 g | C[O-].[Na+]
solvent | methanol | 900 ml | CO | CH4O
product | 5-(5-acetyl-2-furanyl)pentanol | 37.3 g | C(C)(=O)C1=CC=C(O1)CCCCCO | C11H16O3
